US06642229B2
3-Methylbutan-2-one was converted to 1,1-diethoxy-4-methylpentan-3-one as described in Example 4 and condensed with 2-aminoimidazole hemisulfate as described in Example 1 to give 7-isopropylimidazo[1,2-a]pyrimidine as an orange solid: δH (400 MHz, CDCl3) 1.36 (6H, d, J 7), 3.12 (1H, septet, J 7), 6.78 (1H, d, J 7), 7.45 (1H, d, J 1), 7.72 (1H, d, J 1), 8.33 (1H, d, J 7).

reactant | 3-Methylbutan-2-one | CC(C(C)=O)C | C5H10O
reactant | 1,1-diethoxy-4-methylpentan-3-one | C(C)OC(CC(C(C)C)=O)OCC | C10H20O3
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 7-isopropylimidazo[1,2-a]pyrimidine | C(C)(C)C1=NC=2N(C=C1)C=CN2 | C9H11N3
